* SpiceNetList
* 
* Exported from RevA.sch at 2/13/2019 4:06 PM
* 
* EAGLE Version 9.2.1 Copyright (c) 1988-2018 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
V_V1 VI 0 DC 0V AC 1mV 
V_V2 0 VSS 7V 
X_X1 0 VF VDD VSS VO OPAMP 
R_R1 VF VI 16k 
V_V3 VDD 0 7V 
C_C1 VF VO 1e-13 
R_R2 VO VF 16Meg 

* --------- models ---------

* (model found in library)

* Autodesk EAGLE
* BASIC OP AMP MODEL
* Device Pins In+ In- vdd vss Vout
* vdd vss unused in this model!!
.SUBCKT opamp 1 2 vdd vss vout
*
* INPUT
RIN   1   2   1e9
*
*  AMPLIFIER STAGE: GAIN, POLE, SLEW
*   Aol=10000, fu=1000000 Hz
G1   0    10  VALUE = { 1e-2 * V(1,2)  }
R1   10   0   1e6
C1   10   0   1.59e-9
*
* 2ND POLE 
G2   0 20   10 0  1e-6
R2   20       0     1e6
C2   20       0     3.3e-14
*
* 3RD POLE 
G3   0 30   20 0 1e-6
R3   30       0     1e6
C3   30       0     3.3e-14
*
* OUTPUT STAGE
EBUFFER 80 0  30  0    1
ROUT 80 vout 100
.ENDS opamp


* --------- simulation ---------

.control
set filetype=ascii
AC DEC 500 10 1e+7 
write RevA.sch.sim V(VI) V(VO) I(V_V3) I(V_V1) I(V_V2)
.endc


.END










