* source RMSMETER
C_C1         N00154 N00158  1e-12  TC=0,0 
R_R1         N00143 N00154  16k TC=0,0 
R_R2         N00154 N00158  16Meg TC=0,0 
V_V1         N00143 0 DC 0Vdc AC .001Vac 
E_U1         N00158 0 VALUE {LIMIT(V(0,N00154)*1E6,-15V,+15V)}
R_R3         N00675 N00705  16k TC=0,0 
C_C2         N00705 N00713  1e-12  TC=0,0 
R_R4         N00705 N00713  16Meg TC=0,0 
V_V2         N00675 0 DC 0Vdc AC .001Vac 
V_V3         0 N009461 7Vdc
X_U2         N00705 0 N00713 N016253 N009461 TSV99X 
V_V4         N016253 0 7Vdc
